US06589978B2
(2RS,5SR)-1-{2-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-ethyl}-1H-pyrazole
The title compound, white solid, m.p.=121° C. and MS: m/e=414.2 (M+H+), was prepared in accordance with the general method of example 82b from (2RS,5RS)-2-(2-chloro-ethyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine and 1H-pyrazole.

reactant | (2RS,5RS)-2-(2-chloro-ethyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | ClCCC1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C19H21ClFNO2S
reactant | 1H-pyrazole | N1N=CC=C1 | C3H4N2
product | (2RS,5SR)-1-{2-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-ethyl}-1H-pyrazole | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCN1N=CC=C1 | C22H24FN3O2S
